US09315542B2
Ethyl ((2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl) succinate
A solution of N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide (300 mg, 0.46 mmol) and DMAP (166 mg, 1.36 mmol) in pyridine (2 mL) was kept in a 30° C. oil bath. 4-Ethoxy-4-oxobutanoic anhydride (ca. 8.5 mmol) in pyridine (1 mL) was added and the mixture was stirred 30 min at 30° C. It was diluted with water (20 mL) and dichloromethane (50 mL). The dichloromethane layer was separated and washed with 1N HCl (10 mL) and brine (10 mL). It was dried over sodium sulfate then concentrated to dryness. The residue was purified on silica gel column (dichloromethane:ethyl acetate=2:1) to give product as a white powder (200 mg, 55%); 1H NMR (300 MHz, CDCl3): δ 8.10 (s, 1H), 7.29-7.10 (m, 6H), 7.05 (m, 2H), 5.39-5.29 (m, 1H), 4.78-4.69 (m, 1H), 4.63-4.56 (m, 1H), 4.20-4.11 (m, 2H), 3.89-3.81 (m, 2H), 3.76-3.72 (m, 1H), 3.62-3.53 (m, 2H), 3.46 (s, 3H), 3.43 (m, 1H), 3.31 (s, 3H), 3.15-3.05 (m, 1H), 2.90-2.78 (m, 3H), 2.76 (s, 3H), 2.71-2.72 (m, 2H), 1.37 (s, 3H). 1.27 (t. J=7.2 Hz, 3H); MS for C31H41IN4O10S m/z: 789 (M+H)+.

reactant | N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide | 0.46 mmol, 300 mg | O[C@@](C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)(CI)C | C25H33IN4O7S
reactant | 4-Ethoxy-4-oxobutanoic anhydride | ca. 8.5 mmol | C(C)OC(CCC(=O)OC(CCC(OCC)=O)=O)=O | C12H18O7
catalyst | DMAP | 1.36 mmol, 166 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 20 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Ethyl ((2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl) succinate | 200 mg, 55% | C(CCC(=O)O[C@](CI)(C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)C)(=O)OCC | C31H41IN4O10S
